reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@:2]12[C:3][C:4]([H:11])([H:12])[C@@:5]1([C:7]([H:13])([H:14])[H:15])[O:6]2)([H:8])([H:9])[H:10],64.057893005105
[N:1](=[C:2]1/[C:3]([H:8])([H:9])[O:4][C:5]([H:10])([H:11])[O:6]1)\[H:7]>>[N:1](=[C:2](/[C:3]([O:4][H:11])([H:8])[H:9])[O+:6]=[C-:5][H:10])\[H:7],76.8782530672704
[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([H:10])[H:14])([H:7])([H:8])[H:9].[C:5]([O:6][H:16])[H:15],85.8706140622574
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:5]#[O+:6].[C:1](/[C:2](=[C:3](/[O:4][H:13])[H:12])[H:11])([H:7])([H:8])[H:9].[H:10][H:14],76.2610592132775
[C:1]([O:2][C:3]([C:4]([N+:6]#[C-:5])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:5]#[N:6])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],39.0254662569395
[C-:5]#[O+:6].[C:1](/[C:2](=[C:3](\[O:4][N:7]([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],55.356959051301416
[C:1]([C:2]1([C:5]#[N:6])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([N+:6]#[C-:5])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],60.9880073633982
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5](=[O:6])[H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[C:4]([H:13])([H:14])[H:15])[H:12])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:16],70.4623696977752
[O:1]1[C:2]([H:7])=[C:3]([H:9])[C:4]([H:10])([H:11])[C@:5]1([O:6][H:8])[H:12]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],36.79144307089796
[H:11][H:12].[O-:1][C+:2]([N:3]([C:4](=[C:5]([C:6]#[C:7][H:14])[H:13])[H:10])[H:9])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],79.5826016756103
[C:1]([O:2][C:3]([O-:4])=[C:5]([N+:6]([H:10])([H:12])[H:13])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],28.3114827103727
[C:1]([N:2]([C:3](=[O:4])[O:5][C:6]([H:11])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[O:5]([C:6]([H:11])([H:12])[H:13])[H:10],53.3342900969932
[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6]>>[O:1]([C:2]([O:5][C:4](=[C:3]([H:9])[H:10])[H:11])([H:7])[H:8])[H:6],76.1375658636196
[N:1](=[C:2]=[O:3])[H:7].[N:4](=[C:5](\[O:6][H:8])[H:10])\[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:10])[H:9])([H:7])[H:8],29.54379353026791
[O:1]([C:2](/[C:3](=[N:5]/[C:4]([H:10])([H:11])[H:12])[H:9])([H:7])[H:8])[H:6]>>[O:1]([C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[H:12])([H:7])[H:8])[H:6],73.7666981663408
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O+:1](=[C:2]([N:3]([C-:4]([H:10])[H:11])[H:9])[H:8])[C:5]([C:6]#[C:7][H:14])([H:12])[H:13],92.639819709835
[C:1]([C@@:2]1([C:3](=[O:4])[H:12])[C@@:5]([N:7]([H:13])[H:14])([H:11])[O:6]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],59.35597434816079
[C:1]([C:2](/[C:3](=[C:5](\[O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:4]([C:6]([H:16])([H:17])[H:18])[H:14]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],95.1816356095021
[C:1]([C:2]([C:3](=[C:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],2.967015887207289
[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[N:3]([C:4]([H:12])([H:13])[H:14])[C@@:5]1([O:6][H:8])[H:15],96.19517435586658
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6](=[O:7])[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[C:4]([H:11])[H:13])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:8])([H:9])[H:10].[H:12][H:14],116.766144853489
[C:6](=[O:7])([H:12])[H:13].[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4]1=[O:5])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8],44.8822504624475
[C:1](/[C:2](=[N:3]/[H:10])[O+:4]=[C-:5][O:6][H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],32.55933892261482
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C+:2]([C:3]([O:4][H:14])([H:12])[H:13])[N:5]([C-:6]([O:7][H:11])[H:16])[H:15])([H:8])([H:9])[H:10],63.34316912360029
